US07138395B2
Preparation of (4S,7S,11aR)-7-tert-butoxycarbonylamino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid methyl ester (41):
6-Allyl-1-(2-tert-butoxycarbonylamino-pent-4-enoyl)-piperidine-2-carboxylic acid methyl ester, 40, (1.0 g, 2.6 mmol) is dissolved in dichloromethane (100 mL). Grubbs catalyst (0.5 g, 0.61 mmol) is added and the mixture is heated at reflux for 24 hours. The reaction is cooled and dimethylsulfoxide (2 mL) is added. After 24 hours, the solution is concentrated to a oil, which is purified over silica (ethyl acetate/hexanes) to afford 680 mg of the desired product. 1H NMR (CDCl3) δ 6.02 (d, J=6.6 Hz,1H), 5.61 (m, 1H), 5.21 (m, 1H), 4.93 (ddd, J=6.6, 6.2, 6.2 Hz, 1H), 4.54 (m, 1H), 3.71 (s, 3H), 2.95 (ddd, J=16.2, 5.9, 5.9 Hz, 1H), 2.63 (ddd, J=17.6, 12.0, 5.5 Hz,1H), 2.42 (ddd, J=16.2, 5.8, 5.1 Hz, 1H), 2.34–2.16 (m, 2H), 1.90–1.58 (m, 5H), 1.48 (s, 9H); 13C NMR δ 173.0, 172.5, 155.6, 129.2, 125.0, 79.9, 52.4, 52.0, 51.2, 50.8, 36.6, 34.5, 30.1, 28.8(3C), 26.4, 16.0.

reactant | 6-Allyl-1-(2-tert-butoxycarbonylamino-pent-4-enoyl)-piperidine-2-carboxylic acid methyl ester | COC(=O)C1N(C(CCC1)CC=C)C(C(CC=C)NC(=O)OC(C)(C)C)=O | C20H32N2O5
reactant | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | Grubbs catalyst | 0.61 mmol, 0.5 g | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | (4S,7S,11aR)-7-tert-butoxycarbonylamino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid methyl ester | 680 mg | COC(=O)[C@@H]1CCC[C@H]2N1C([C@H](CC=CC2)NC(=O)OC(C)(C)C)=O | C18H28N2O5
